US05241070
Preparation of N-tert-Butyloxycarbonyl-S-(3-sulfopropyl)cysteine (BOC-SulfoCys)
2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile (BOC-ON) (121 mg, 0.49 mmole) (Aldrich Chem. Co., Milwaukee, Wis.) was added to a solution of S-(3-sulfopropyl)cysteine (SulfoCys, 100 mg, 0.41 mmole), (prepared by the method of U. T. Ruegg and J. Rudinger, J. Peptide Protein Res. 6, 447, 1974), and triethylamine (0.18 ml, 1.23 mmole) in 3 ml of 50% aqueous dioxane to form a reaction mixture. The reaction mixture was heated at 50°-55° C. for 1 hour to obtain a yellow solution. The reaction mixture was then cooled, diluted with 5 ml of water, and washed with ethylacetate (3×10 ml). The resultant aqueous layer was evaporated to dryness under vacuo by coevaporating with methanol twice. TLC (Silica gel 60, Merck & Co., Inc.) analysis of the residue produced by the evaporation, using a solvent system of chloroform/methanol/water (55:40:5), showed complete conversion of SulfoCys to BOC-SulfoCys.

reactant | 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile | 0.49 mmole, 121 mg | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | S-(3-sulfopropyl)cysteine | 0.41 mmole, 100 mg | S(=O)(=O)(O)CCCSC[C@H](N)C(=O)O | C6H13NO5S2
reactant | triethylamine | 1.23 mmole, 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | chloroform methanol water | C(Cl)(Cl)Cl.CO.O
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | N-tert-Butyloxycarbonyl-S-(3-sulfopropyl)cysteine | C(C)(C)(C)OC(=O)N[C@@H](CSCCCS(=O)(=O)O)C(=O)O | C11H21NO7S2
